US03965143
To a mixture of 43.5 parts of magnesium in 125 parts by volume of ether is added a portion of a solution containing 84 parts of methyl cyclohexylmethyl ketone and 71.4 parts of propargyl bromide in a solution consisting of 60 parts by volume of benzene and 180 parts by volume of ether. After the addition of 0.05 part of mercuric chloride to initiate the reaction, the remainder of the reactants is added dropwise. The reaction mixture is heated at the reflux temperature for about 15 minutes, allowed to cool to room temperature, then poured carefully into cold dilute hydrochloric acid. The aqueous phase is separated, extracted with ether and the combined ether extracts are washed successively with water, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and evaporated to dryness. Vacuum distillation of the residue affords 4(RS)-4-cyclohexylmethyl-4-methyl-1-butyn-4-ol.

reactant | magnesium | [Mg] | Mg
reactant | methyl cyclohexylmethyl ketone | C1(CCCCC1)CC(=O)C | C9H16O
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | hydrochloric acid | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4(RS)-4-cyclohexylmethyl-4-methyl-1-butyn-4-ol | C1CCC(CC1)CC(CC#C)(O)C | C12H20O
